US06008243
According to the procdure described in Example 13 for the preparation of (4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone, 2-acetoxy-2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester was hydrogenolyzed to provide in 61% yield 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester as a white solid, mp 77-78° C. 1H NMR: δ 7.71 (d, 2H, J=8.5 Hz), 7.63-7.59 (m, 4H), 7.45 (t, 2H, J=7.4 Hz), 7.35 (t, 1H, J=7.4 Hz), 6.64 (d, 1H, J=2.9 Hz), 6.34 (d, 1H, J=3.3 Hz), 4.22 (q, 2H, J=7.2 Hz), 3.76 (s, 2H), 1.30 (t, 3H, J=7.2 Hz). Anal. Calculated for C20H18O3 : C, 78.41; H, 5.92. Found: C, 78.16; H, 5.92.

reactant | (4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(CC1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H30N2O2
reactant | 2-acetoxy-2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester | C(C)OC(C(C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)OC(C)=O)=O | C22H20O5
product | 2-(2-biphenyl-4-yl-furan-5-yl)-acetic acid ethyl ester | 61% yield | C(C)OC(CC1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C20H18O3
